US09359375B2
A solution of 2,6-dichloro-3-cyano-5-fluoropyridine (250 mg, 1.30 mmol), 1-aminocyclopentanecarboxamide hydrochloride (214 mg, 1.30 mmol) and DIEA (0.650 mL, 3.73 mmol) in DMSO (3 mL) was stirred at 95 C for 4 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with 50-100% EtOAc in hexane to give 1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclopentanecarboxamide (180 mg).

reactant | 2,6-dichloro-3-cyano-5-fluoropyridine | 1.30 mmol, 250 mg | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | 1-aminocyclopentanecarboxamide hydrochloride | 1.30 mmol, 214 mg | Cl.NC1(CCCC1)C(=O)N
reactant | DIEA | 3.73 mmol, 0.650 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclopentanecarboxamide | 180 mg | ClC1=C(C=C(C(=N1)NC1(CCCC1)C(=O)N)F)C#N | C12H12ClFN4O
